US07713994B2
(4Z)-6-Bromo-4-{[(3,5-dihydroxy-4-methoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione
6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (89 mg, 0.32 mmol), 5-aminomethyl-2-methoxy-benzene-1,3-diol hydrochloride salt (66 mg, 0.32 mmol) and Et3N (111 μL, 0.8 mmol) in N,N-dimethylformamide (DMF) (2 mL) is stirred at 25° C. for 24 hours. H2O (10 mL) is added to the reaction mixture. The resulting precipitate is filtered, washed with H2O and dried in vacuo to give 144 mg of the title compound as a beige powder. HRMS (ESI) m/z calcd for C18H15BrN2O5 (M+H)+1 419.02371. found: 419.02294.

reactant | 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.32 mmol, 89 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | 5-aminomethyl-2-methoxy-benzene-1,3-diol hydrochloride salt | 0.32 mmol, 66 mg | Cl.NCC=1C=C(C(=C(C1)O)OC)O
reactant | Et3N | 0.8 mmol, 111 μL | CCN(CC)CC | C6H15N
reactant | H2O | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-Bromo-4-{[(3,5-dihydroxy-4-methoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 144 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C(=C1)O)OC)O | C18H15BrN2O5
